US03931181
135 Ml. of about 15% diisobutylaluminum hydride solution in dioxane were added dropwise within 30 minutes at 50°C. under nitrogen and exclusion of moisture to a solution of 4.45 g. of α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid methyl ester in 400 ml. of absolute dioxane. The resulting suspension was stirred at 50° for 1 hour. After cooling to 30°C., the reaction mixture was treated with a mixture of 25 ml. of methanol, 5 ml. of water and 50 ml. of dioxane and stirred at 50° for an additional 2 hours. The solid material was separated and rejected, and the filtrate was evaporated to dryness. After recrystallization from about 20 ml. of methanol, the residue yielded 4-[ (2,4-diamino-5-pyrimidinyl)-methyl] -2,6-dimethoxybenzyl alcohol having a m.p. of 227°-228°.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid methyl ester | COC(=O)C1=CC(=C(C(=C1)OC)CC=1C(=NC(=NC1)N)N)OC | C15H18N4O4
reactant | methanol | CO | CH4O
reactant | water | O | H2O
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 4-[ (2,4-diamino-5-pyrimidinyl)-methyl] -2,6-dimethoxybenzyl alcohol | NC1=NC=C(C(=N1)N)CC1=CC(=C(CO)C(=C1)OC)OC | C14H18N4O3
